US07008957B2
4) (3R,6R,7aS)-5-Oxo-6-(3-phenylpropylamino)-hexahydropyrrolo[2,1-b]thiazole-3-carbonitrile
30 mg of (3R,6R,7aS)-(6-amino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carbonitrile trifluoroacetate, 0.0132 ml of 3-phenylpropionaldehyde and 0.115 ml of glacial acetic acid were heated in 1.5 ml of methylene chloride at 40° C. for 20 minutes. The mixture was then cooled to room temperature, 8.3 mg of sodium acetate, 0.5 ml of dimethoxyethane and 27.8 mg of sodium triacetoxyborohydride were added, and the mixture was stirred at RT overnight. After concentration of the mixture, the residue was purified by column chromatography (silica gel, mobile phase: ethyl acetate: n-heptane=8:1).

reactant | 6-amino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carbonitrile trifluoroacetate | FC(C(=O)O)(F)F.NC1CC2SCC(N2C1=O)C#N
reactant | 3-phenylpropionaldehyde | 0.0132 ml | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | sodium acetate | 8.3 mg | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 27.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | dimethoxyethane | 0.5 ml | C(OC)COC | C4H10O2
solvent | acetic acid | 0.115 ml | C(C)(=O)O | C2H4O2
product | (3R,6R,7aS)-5-Oxo-6-(3-phenylpropylamino)-hexahydropyrrolo[2,1-b]thiazole-3-carbonitrile | O=C1[C@@H](C[C@@H]2SC[C@H](N21)C#N)NCCCC2=CC=CC=C2 | C16H19N3OS
